US07629473B2
Synthesis of [2-(2-bromo-5-fluoro-phenyl)-ethyl]-methyl-carbamic acid tert-butyl ester
[2-(2-Bromo-5-fluoro-phenyl)-ethyl]-methyl-amine (14.6 g, 62.9 mmol) is dissolved in dry THF (200 mL) and di-tert-butyl dicarbonate (15.1 g, 69.2 mmol) is added. The mixture is stirred for 16 hours at ambient temperature. The volatiles are removed by means of evaporation and the crude mixture is purified by silica gel chromatography eluting with ethyl acetate-heptane (1:4) to furnish 19.4 g (93%) of the title compound as an oil.

reactant | [2-(2-Bromo-5-fluoro-phenyl)-ethyl]-methyl-amine | 62.9 mmol, 14.6 g | BrC1=C(C=C(C=C1)F)CCNC | C9H11BrFN
reactant | di-tert-butyl dicarbonate | 69.2 mmol, 15.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | [2-(2-bromo-5-fluoro-phenyl)-ethyl]-methyl-carbamic acid tert-butyl ester | 19.4 g, 93% | C(C)(C)(C)OC(N(C)CCC1=C(C=CC(=C1)F)Br)=O | C14H19BrFNO2
